US07319104B2
2-(3-{3-[[4-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl](5-phenyl-1,3-oxazol-2-yl)amino]propyl}phenoxy)-2-methylpropanoic acid
Similarly prepared from tert-butyl 2-[3-(3-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoate and 2-chloro-5-phenyl-oxazole (ref. GB1552125).

reactant | tert-butyl 2-[3-(3-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoate | C1(CC1)C1=NC(=NO1)C1=CC=C(CNCCCC=2C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC2)C=C1 | C29H37N3O4
reactant | 2-chloro-5-phenyl-oxazole | ClC=1OC(=CN1)C1=CC=CC=C1 | C9H6ClNO
product | 2-(3-{3-[[4-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl](5-phenyl-1,3-oxazol-2-yl)amino]propyl}phenoxy)-2-methylpropanoic acid | C1(CC1)C1=NC(=NO1)C1=CC=C(CN(CCCC=2C=C(OC(C(=O)O)(C)C)C=CC2)C=2OC(=CN2)C2=CC=CC=C2)C=C1 | C34H34N4O5
